Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
LLE pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of autoimmune hemolytic anemia presents for the 
evaluation of lower back pain. Started after a fall 2 weeks ago, 
did not have preceding back pain and has been gradually 
worsening since. Has had difficulty moving the LLE only ___ pain 
with no weakness, denies numbness, loss of bowel or bladder 
control and no other injuries or complaints. 

Pt received TLSO in the ED but refused to wear it, citing 
discomfort, as well as aesthetic concerns, which she maintained 
despite discussion with MD, appearing very anxious. She has a 
son (___), with whose assistance we can likely obtain 
better compliance, however she reports that his fiancee is 
acutely ill in ___. The ED physician called the number listed 
and left a voicemail, asking him to come in the am to discuss 
the importance of the imaging she still needs and the next steps 
in her care but they did not hear back. She still requires WB 
films and ___ eval.
 
In the ED, initial vital signs were: 98.1 100 128/50 20 100% RA 
-   
- Labs were notable for: U/A with >182 WBC, few bacteria, large 
___  
- Studies performed include:
MRI ___ (___):
1. Severe acute/subacute T12 compression fracture with mild 
stir/T2
hyperintense signal within the vertebral body with 5 mm 
retropulsion and subtle abnormal cord signal at this level 
concerning for cord injury (07:13). Small amount of fluid 
anterior to T11 and T12 is worrisome for anterior longitudinal 
ligament disruption. Ligament itself not well visualized.
2. T11 vertebral body hemangioma.
3. Moderate acute/subacute T10 anterior compression fracture 
with 2 mm of retropulsion, unchanged since prior examination. No 
abnormal cord signal
4. Severe right and moderate left L2-L3 neural foraminal 
narrowing
5. Splenomegaly measuring up to 16.1 cm
6. Mildly hypodense bone marrow can be seen with 
myeloproliferative
disorders, anemia, and hematologic malignancy. Clinical 
correlation is
recommended.
  
- Patient was given:
___ 22:26 PO Acetaminophen 1000 mg  
___ 01:42 PO/NG OxyCODONE (Immediate Release) 2.5 mg 
___ 01:42 PO/NG Acetaminophen 650 mg 
___ 03:39 IV CeftriaXONE 1 gm 
___ 07:55 PO/NG Docusate Sodium 100 mg 
___ 07:55 PO/NG FoLIC Acid 1 mg 
___ 07:55 PO/NG PredniSONE 20 mg 
___ 07:55 PO/NG OxyCODONE (Immediate Release) 2.5 mg 
___ 20:15 PO/NG PredniSONE 20 mg    
___ 00:05 PO/NG OxyCODONE (Immediate Release) 2.5 mg 
___ 02:42 IV CefTRIAXone 1 gm 
___ 08:34 PO/NG Docusate Sodium 100 mg  
___ 08:34 PO/NG FoLIC Acid 1 mg  
___ 08:34 PO/NG PredniSONE 20 mg   
___ 08:34 PO/NG Acetaminophen 650 mg   
 
- Vitals on transfer: 98.4 97 128/51 16 98% RA  

Upon arrival to the floor, the patient confirms most of the 
story above. She has some difficulty recounting a timeline of 
what brought her in. She states that she has noticed worsening 
left lower extremity pain with ambulation and some weakness over 
the past ___ weeks. She confirms that she had a fall but does 
not recall when this happened. She cites some difficulties 
getting in contact with her son over the past day. She refuses 
to wear the brace she was given in the emergency room and states 
it was extremely uncomfortable. She otherwise denies headache, 
vision changes, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
paresthesias, problems with bowel or bladder incontinence, 
dysuria. 
 
Past Medical History:
Hyperlipidemia 
Hemolytic anemia - single episode in ___ 
DJD thoracic ___
Edema of lower extremity
Warm autoimmune hemolytic anemia
L humeral fracture s/p rod fixation ___ years ago
 
Social History:
___
Family History:
No blood disorders 
Mother lived to ___ passed of old age, Father ___ passed of heart
attack
 
Physical Exam:
ADMISSION PHYSICAL EXAM
============================
Vitals- T 98.4 HR 97 BP 128/51 RR 16 O2Sat 98% RA 
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection.  Moist mucous membranes.  Oropharynx is clear.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Decreased breath sounds over right lung base and mid lung 
field, otherwise clear to auscultation. 
BACK: Tender to palpation over sacrum and L hip, no tenderness 
along cervical, thoracic, lumbar ___.
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. 
EXTREMITIES: Edema of bilateral lower extremities. 2+ distal 
pulses.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  Grossly nonfocal neurologic exam 
other than weakness raising left leg. Normal sensation.  No 
ataxia, dysmetria, disdiadochokinesia.  Gait not assessed.

DISCHARGE PHYSICAL EXAM
=========================
Vitals- T 98.6 HR 71-102 BP ___ RR 16 O2Sat 97-100% RA 

GENERAL: AOx3, NAD
HEENT: NCAT.  PERRL, EMOI, MMM, sclera anicteric and without 
injection.  Moist mucous membranes. OP is clear.
NECK: No cervical lymphadenopathy.
CARDIAC: RRR, no murmurs/rubs/gallops.  No JVD.
LUNGS: Decreased breath sounds over right lung base and mid lung 
field, otherwise clear to auscultation. 
BACK: Tender to palpation over sacrum and L hip, no tenderness 
along cervical, thoracic, lumbar ___.
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. 
EXTREMITIES: Edema of bilateral lower extremities. 2+ distal 
pulses.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: CN2-12 intact.  Grossly nonfocal neurologic exam 
other than weakness raising left leg. Normal sensation.  No 
ataxia, dysmetria, disdiadochokinesia.  Gait not assessed.
 
Pertinent Results:
ADMISSION LABS
=================
___ 04:50AM BLOOD WBC-5.0 RBC-2.11*# Hgb-7.3*# Hct-21.9*# 
MCV-104* MCH-34.6* MCHC-33.3 RDW-22.1* RDWSD-74.0* Plt ___
___ 04:50AM BLOOD Glucose-90 UreaN-23* Creat-0.7 Na-145 
K-3.9 Cl-109* HCO3-26 AnGap-14

IMAGING
============
PELVIS XRAY AP ___:
FINDINGS: 
 
Diffuse demineralization is noted.  There is no sacroiliac or 
pubic symphysis diastases.  Faint sclerosis is demonstrated at 
the right sacral ala, corresponding with appearance on CT which 
suggests a subacute fracture.  Mild multilevel degenerative 
changes of hips are noted with small osteophyte formation and 
subchondral sclerosis.  Limited assessment of the lower lumbar 
___ demonstrates multilevel degenerative changes with endplate 
sclerosis and disc space narrowing.  Visualized bowel gas 
pattern is nonobstructive.
 
IMPRESSION: 
 
1.  Faint sclerosis of the right sacral ala, corresponding to 
appearance of
previous CT which may reflect a subacute fracture.  No definite 
acute fracture is seen.
2.  No left hip fracture on single view.

MR ___ ___:
FINDINGS: 
 
For the purposes of numbering, the lowest rib bearing vertebral 
body was
designated the T12 level.
 
There is mild lumbar levoscoliosis centered at the L2-L3 level.  
Vertebral
body alignment is otherwise preserved.  Again, there is severe 
compression
deformity of the T12 vertebral body with minimal edema within 
the vertebral
body.  There is associated 5 mm of bony retropulsion, focally 
contacting and flattening the ventral spinal cord, with 
underlying T2 hyperintensity (07:13)
on T2 axial images without corresponding abnormality on 
inversion recovery
images.  There is no associated expansion of the cord.  There is 
a small
amount of fluid within the adjacent disc.  There is minimal 
prevertebral soft
tissue edema anterior to the T11 and T12 vertebral bodies, with 
mild up
lifting of the anterior longitudinal ligament, without frank 
disruption.  The
posterior longitudinal ligament and posterior ligamentous 
complex appear
intact. There is mild compression deformity of the L5 superior 
endplate,
without associated edema.  There is severe compression deformity 
of the T9
vertebral body, with roughly 60% height loss with mild 
associated bone marrow
edema with up to 2 mm bony retropulsion, contacting the ventral 
cord without
definite underlying signal abnormality.  The remainder of the 
vertebral body
heights are preserved.
 
There is a 1.2 x 1.3 cm fat containing lesion within the T11 
vertebral body,
likely representing vertebral body hemangioma.  There is 
diffusely decreased
bone marrow signal it There is otherwise no focal bone marrow 
signal
abnormality.
 
The remainder of the visualized portion of the spinal cord is 
preserved in
signal and caliber.  The conus medullaris terminates at the 
L1-L2 level.
 
There is loss of T2 signal within multiple intervertebral discs. 
 There is
moderate intervertebral disc height loss at L5-S1.  There is 
mild
intervertebral disc height loss that L1-L2, L2-L3 and L3-L4.
 
Within the limits of this noncontrast study there is no 
paravertebral or
paraspinal mass identified and there is no evidence of infection 
or neoplasm.
The visualized portion of the sacroiliac joints are preserved.
 
At T9-T10, there is no significant spinal canal narrowing.  
Facet arthropathy
produces mild bilateral neural foraminal narrowing.
 
At T10-T11, there is no significant spinal canal narrowing.  
Facet arthropathy
produces mild bilateral neural foraminal narrowing.
 
At T11-T12 there is mild spinal canal narrowing produced by bony 
retropulsion.
Bony deformity and facet arthropathy produces moderate to severe 
neural
foraminal narrowing on the right and mild neural foraminal 
narrowing on the
left.
 
At T12-L1 there is no significant spinal canal or neural 
foraminal narrowing.
 
At L1-2 there is no significant spinal canal narrowing.  Facet 
arthropathy
produces minimal bilateral neural foraminal narrowing.
 
At L2-3 there is minimal disc bulge with large right marginal 
osteophyte with
ligamentum flavum thickening producing mild spinal canal 
narrowing.  There is
effacement of the subarticular recesses, greater on the right.  
In conjunction
with facet arthropathy, there is progression of severe right and 
mild left
neural foraminal narrowing.
 
At L3-4 there is posterior disc bulge with osteophyte and 
ligamentum flavum
thickening producing moderate to severe spinal canal narrowing 
and effacement
of the bilateral subarticular recesses.  In conjunction with 
facet
arthropathy, there is production of moderate left and mild right 
neural
foraminal narrowing.
 
At L4-5 there is posterior disc bulge, marginal osteophyte and 
ligamentum
flavum thickening producing mild-to-moderate spinal canal 
narrowing and
effacement of the bilateral subarticular recesses.  In 
conjunction with facet
arthropathy there is production of mild to moderate left and 
mild right neural
foraminal narrowing.
 
At L5-S1 there is disc bulge, marginal osteophytes and 
ligamentum flavum
thickening produce mild spinal canal narrowing and left greater 
than right
effacement of the subarticular recesses.  Facet arthropathy 
produces
mild-to-moderate left and minimal right neural foraminal 
narrowing.
 
Bilateral T2 hyperintense renal lesions measuring up to 2.5 cm 
in the left
kidney likely represent cysts.  Splenomegaly is noted on the 
localizes
sequence measuring up to 16.1 cm in longest axis, and signal 
appears diffusely
decreased on the included axial T2 sequences the remainder of 
the visualized
retroperitoneum is grossly unremarkable.
 
IMPRESSION:
 
 
1. Severe T12 vertebral body compression deformity appears 
chronic, with up to
5 mm of bony retropulsion, focally contacting and flattening the 
ventral
spinal cord.  Subtle increased signal seen only on 1 image on 
axial T2 images
without corresponding abnormality inversion recovery images 
could be
artifactual or due to minimal cord edema.
2. A trace amount of prevertebral soft tissue is seen at the 
T11-T12 level,
mildly up lifting the anterior longitudinal ligament, though no 
frank
ligamentous disruption is seen.
3. Severe compression deformity of the T9 vertebral body with 
mild edema,
likely subacute to chronic to 2 mm bony retropulsion focally 
contacting the
cord without definite underlying signal abnormality.
4. Mild, chronic appearing superior endplate compression 
deformity of the L5
vertebral body.
5. Moderate to severe lumbar spondylosis, as described.
6. Mild lumbar levoscoliosis.
7. Diffusely decreased bone marrow signal intensity and 
splenomegaly measuring
up to 16.1 cm, suggestive of myelodysplastic process.  
Correlation with
hematologic labs is recommended.

DISCHARGE LABS
=================
___ 05:10AM BLOOD Ret Aut-13.6* Abs Ret-0.29*
___ 05:10AM BLOOD ALT-15 AST-24 LD(LDH)-378* AlkPhos-151* 
TotBili-3.3*
___ 05:10AM BLOOD Hapto-<10*
___ 06:20AM BLOOD WBC-7.7 RBC-2.14* Hgb-8.0* Hct-23.3* 
MCV-109* MCH-37.4* MCHC-34.3 RDW-24.0* RDWSD-77.6* Plt ___
___ 06:20AM BLOOD Glucose-137* UreaN-30* Creat-0.7 Na-142 
K-3.9 Cl-106 HCO3-25 AnGap-15
___ 06:20AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.___ w/ hx of AIHA presenting now with thoracic compression 
fractures, sacral pain, and LLE pain with ambulation. She was 
admitted for further pain control. 

ACUTE PROBLEMS:
#S/p fall, thoracic compression fractures: Patient with thoracic 
compression fractures but no signs of spinal cord compromise. 
Orthopedics was consulted and recommended MRI and TLSO. MRI 
revealed significant compression deformity of T9, T12, L5 and 
bone marrow changes c/w myelodysplastic syndrome. Fitted for 
TLSO brace but patient was profoundly uncomfortable and refused 
further usage. Risks/benefits of declining use was discussed 
with patient, including risk of paralysis, which she and her 
family accepted. Pt given spinal brace and worked with physical 
therapy. Pain was well controlled on tylenol. Vitamin D level 
was 53.

#LLE/Sacral pain: Likely traumatic given recent fall, see plan 
above.

#Warm autoimmune hemolytic anemia: on prednisone as outpatient, 
with plan for taper. Given ongoing hemolysis (elevated LDH, low 
haptoglobin) we resent DAT and prednisone increased to 25 BID 
per outpatient oncologist ___ who will reconsider 
starting rituxan 375 mg/m2 weekly as outpatient. 

TRANSITIONAL ISSUES
====================
# Will need prednisone taper, determined by outpatient 
hematologist, discharged on 25mg prednisone PO BID. 
# Will need consideration for starting rituximab as outpatient 
given active hemolysis 
# MRI with 'Diffusely decreased bone marrow signal intensity and 
splenomegaly measuring up to 16.1 cm, suggestive of 
myelodysplastic process.' Pt to follow up with heme/onc on 
discharge 
# Pt continues to refuse TLSO brace, risks/benefits discussed 
extensively and accepted by patient/family. 
# Please repeat CBC in 1 week (___) to follow up hemoglobin 
given evidence of active hemolysis during hospitalization. D/c 
Hgb of 7.8 

#Code Status: DNR/DNI (confirmed with patient).
#Emergency Contact/HCP: Son (Mr. ___ (___)
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PredniSONE 20 mg PO DAILY 
2. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
3. Docusate Sodium 100 mg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. melatonin 3 mg oral QHS 
6. Omeprazole 20 mg PO DAILY 
7. albuterol sulfate 90 mcg/actuation inhalation 2 puffs inhaled 
every 4 hours PRN shortness of breath 
8. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  PredniSONE 25 mg PO BID  
3.  albuterol sulfate 90 mcg/actuation inhalation 2 puffs 
inhaled every 4 hours PRN shortness of breath  
4.  Docusate Sodium 100 mg PO DAILY  
5.  Ferrous Sulfate 325 mg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  melatonin 3 mg oral QHS  
8.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS
==================
Thoracic ___ compression fractures
Warm autoimmune hemolytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ came to the hospital because ___ were having pain and 
difficulty walking. ___ were found to have fractures in your 
___ were fitted for a brace to help support your spinal 
column when ___ are performing activities but ___ declined use. 
The risks of declining this brace were discussed with ___, 
including the risk of paralysis and further injury/fracture, 
which ___ understood and accepted.

Your autoimmune hemolytic anemia (blood problem) also seemed to 
be active while ___ were admitted. Your prednisone (steroid) 
dose was increased to help treat this.  

Please continue to take your medications as directed.

Please continue to follow up with your doctors as directed.

It was a pleasure taking care of ___,
Your ___ Care Team
 
Followup Instructions:
___